US08258130B2
Diethyl-iso-propylamine (2.30 mmol) is added to a stirred solution of 2-phenyl-pyrimidine-5-carboxylic acid chloride (1.15 mmol) and 5-fluor-indol-1-ylamine (1.15 mmol) in DCM (20 mL) at rt. The reaction mixture is stirred at rt overnight and concentrated in vacuo. The residue is dissolved in EtOAc (30 mL), then washed with 5% HCl (10 mL), water (10 mL) and brine (10 mL), dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 10-40% EtOAc in heptane to afford 2-phenyl-pyrimidine-5-carboxylic acid (5-fluoro-indol-1-yl)-amide (185 mg, 49%) as a solid. MS: 333 (M+H); 1H NMR (300 MHz, CDCl3): δ 6.56 (s, H) 7.02 (m, H), 7.10-7.38 (m, 4H), 7.55 (s, 3H), 8.53 (s, 2H), 8.70-9.40 (br, 2H). IC50=3 nM.

reactant | Diethyl-iso-propylamine | 2.30 mmol | C(C)N(C(C)C)CC | C7H17N
reactant | 2-phenyl-pyrimidine-5-carboxylic acid chloride | 1.15 mmol | C1(=CC=CC=C1)C1=NC=C(C=N1)C(=O)Cl | C11H7ClN2O
reactant | 5-fluor-indol-1-ylamine | 1.15 mmol | FC=1C=C2C=CN(C2=CC1)N | C8H7FN2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-phenyl-pyrimidine-5-carboxylic acid (5-fluoro-indol-1-yl)-amide | 185 mg, 49% | FC=1C=C2C=CN(C2=CC1)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1 | C19H13FN4O
